US04341707
Production of N,N'-disuccinimidyl carbonate (DSC)
11.5 g (0.1 mol) of N-hydroxysuccinimide was admixed with 6 ml (0.05 mol) of trichloromethyl chloroformate (TCF), and the resultant admixture was melted by heating. The heating was continued for 10 minutes and then the resultant melt was allowed to cool and to deposit a colorless crystalline material. This crystalline material was filtered off from the liquid phase and recrystallized from acetonitrile, affording 6.5 g of the titled compound in the form of colorless crystals. Yield 50%.

reactant | N-hydroxysuccinimide | 0.1 mol, 11.5 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | trichloromethyl chloroformate | 0.05 mol, 6 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
product | N,N'-disuccinimidyl carbonate | 6.5 g, Yield 50% | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
